US06610680B1
Benzyl 2-(S)-Isobutyl-2-[3(S)-(4(S)-phenyloxazolidin-2-on-3-yl)-4(R)-(2-(phenyl)ethyl)azetidin-2-on-1-yl]acetate
A solution of 0.79 gm (1.76 mMol) 2-(S)-isobutyl-2-[3(S)-(4(S)-phenyloxazolidin-2-on-3-yl)-4(R)-(2-(phenyl)ethyl)azetidin-2-on-1-yl]acetic acid in 20 mL dichloromethane was cooled to −4° C. To this solution were added 0.26 mL (1.85 mMol) triethylamine followed by 0.26 mL (1.85 mMol) benzyl chloroformate. After 5 minutes 0.20 mL (1.93 mMol) benzyl alcohol were added and the reaction mixture was allowed to warm to room temperature over 1 hour. The reaction mixture was then washed sequentially with two portions each of 1 N hydrochloric acid, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride. The remaining organics were dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 1:1 hexane: ethyl acetate to provide the title compound as a colorless, crystalline solid.

reactant | 2-(S)-isobutyl-2-[3(S)-(4(S)-phenyloxazolidin-2-on-3-yl)-4(R)-(2-(phenyl)ethyl)azetidin-2-on-1-yl]acetic acid | 1.76 mMol, 0.79 gm | C(C(C)C)[C@@H](C(=O)O)N1C([C@H]([C@H]1CCC1=CC=CC=C1)N1C(OC[C@@H]1C1=CC=CC=C1)=O)=O | C26H30N2O5
reactant | triethylamine | 1.85 mMol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 1.85 mMol, 0.26 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | benzyl alcohol | 1.93 mMol, 0.20 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Benzyl 2-(S)-Isobutyl-2-[3(S)-(4(S)-phenyloxazolidin-2-on-3-yl)-4(R)-(2-(phenyl)ethyl)azetidin-2-on-1-yl]acetate | C(C(C)C)[C@@H](C(=O)OCC1=CC=CC=C1)N1C([C@H]([C@H]1CCC1=CC=CC=C1)N1C(OC[C@@H]1C1=CC=CC=C1)=O)=O | C33H36N2O5
